US04499100
Fifty g of [2-(1,4-benzodioxan-2-yl)-2-hydroxyethyl]amine and 85 g of piperidone HCl (ALDRICH) are dissolved in 1000 ml of ethanol. Sodium cyanoborohydride (75 g) is added, and after stirring at ambient conditions overnight (about 16 hr) the mixture is cooled and evaporated. The product is recovered by extraction with methylene chloride to yield 4-{[2-(1,4-benzodioxan-2-yl)-2-hydroxyethyl]amino}piperidine. This material is of sufficient purity to use in this invention.

reactant | [2-(1,4-benzodioxan-2-yl)-2-hydroxyethyl]amine | O1C(COC2=C1C=CC=C2)C(CN)O | C10H13NO3
reactant | piperidone HCl | 85 g | Cl.N1C(CCCC1)=O
reactant | Sodium cyanoborohydride | 75 g | C(#N)[BH3-].[Na+]
solvent | ethanol | 1000 ml | C(C)O | C2H6O
product | 4-{[2-(1,4-benzodioxan-2-yl)-2-hydroxyethyl]amino}piperidine | O1C(COC2=C1C=CC=C2)C(CNC2CCNCC2)O | C15H22N2O3
